US07799775B2
To a solution of 105 mg of 1-(4-tert-butoxycarbonylpiperazin-1-yl)-7-hydroxyisoquinoline in 10 ml of acetone, 93 mg of potassium carbonate and 55 mg of ethyl iodide were added and heated under reflux for 2 hours. Further adding 55 mg of ethyl iodide, the solution was heated under reflux for 2 hours, followed by addition of 48 mg of potassium carbonate and 55 mg of ethyl iodide, and an overnight's refluxing. Cooling the system off, the residue was extracted with ethyl acetate after addition of water, washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography (ethyl acetate:n-hexane=1:4) to provide 102 mg (90%) of 1-(4-tert-butoxycarbonylpiperazin-1-yl)-7-ethoxyisoquinoline.

reactant | 1-(4-tert-butoxycarbonylpiperazin-1-yl)-7-hydroxyisoquinoline | 105 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)O | C18H23N3O3
reactant | potassium carbonate | 93 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 55 mg | C(C)I | C2H5I
reactant | ethyl iodide | 55 mg | C(C)I | C2H5I
reactant | potassium carbonate | 48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 55 mg | C(C)I | C2H5I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-(4-tert-butoxycarbonylpiperazin-1-yl)-7-ethoxyisoquinoline | 102 mg, 90% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)OCC | C20H27N3O3
